US05817669
Triethylamine (18 ml) was added to a suspension composed of 7-chloro-1,4-dihydro-4-oxo-1-(2-thiazolyl)-1,8-naphthyridine-3-carboxylic acid ethyl ester (7.1 g) obtained in Example A-1 (4), trans-3-methoxy-4-methylaminopyrrolidine dihydrochloride (6.0 g) and acetonitrile (150 ml). The resulting reaction mixture was stirred at room temperature for 5 hours, and was then concentrated under reduced pressure. Then, an aqueous solution of sodium hydrogencarbonate was added, and the resultant mixture was extracted with chloroform. After the obtained extract was dried over anhydrous sodium sulfate, solvent was distilled off under reduced pressure, and the resultant residue was purified by silica gel column chromatography (eluent chloroform:methanol=6:1), and thus, there was obtained 1,4-dihydro-7-(trans-3-methoxy-4-methylamino-1-pyrrolidinyl)-4-oxo-1-(2-thiazolyl)-1,8-naphthyridine-3-carboxylic acid ethyl ester (6.1 g).

reactant | Triethylamine | 18 ml | C(C)N(CC)CC | C6H15N
reactant | 7-chloro-1,4-dihydro-4-oxo-1-(2-thiazolyl)-1,8-naphthyridine-3-carboxylic acid ethyl ester | 7.1 g | C(C)OC(=O)C1=CN(C2=NC(=CC=C2C1=O)Cl)C=1SC=CN1 | C14H10ClN3O3S
reactant | trans-3-methoxy-4-methylaminopyrrolidine dihydrochloride | 6.0 g | Cl.Cl.CO[C@@H]1CNC[C@H]1NC
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 1,4-dihydro-7-(trans-3-methoxy-4-methylamino-1-pyrrolidinyl)-4-oxo-1-(2-thiazolyl)-1,8-naphthyridine-3-carboxylic acid ethyl ester | 6.1 g | C(C)OC(=O)C1=CN(C2=NC(=CC=C2C1=O)N1C[C@H]([C@@H](C1)NC)OC)C=1SC=CN1 | C20H23N5O4S
